US06878721B1
1-(3-Amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-ethan ne is prepared from 2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-1-(4-benzyloxy-3-nitro-phenyl)-ethanone (1.50 g) by an analogous procedure to that used to prepare (R)-1-(3-Amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-ethanol in Example 19. The reaction is shown to be complete by TLC after 48 hours. The catalyst is filtered off and the solvent is removed in vacuo. The product is purified by flash column chromatography (silica, n-hexane/ethyl acetate 4:1). TLC (silica, n-hexane/ethyl acetate 2:1 Rf=0.70).

reactant | 2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-1-(4-benzyloxy-3-nitro-phenyl)-ethanone | 1.50 g | C(C1=CC=CC=C1)N(CC(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])C1CC2=CC(=C(C=C2C1)CC)CC | C35H36N2O4
reactant | (R)-1-(3-Amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-ethanol | NC=1C=C(C=CC1OCC1=CC=CC=C1)[C@H](CN(C1CC2=CC(=C(C=C2C1)CC)CC)CC1=CC=CC=C1)O | C35H40N2O2
product | 1-(3-Amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-ethan | NC=1C=C(C=CC1OCC1=CC=CC=C1)CCN(C1CC2=CC(=C(C=C2C1)CC)CC)CC1=CC=CC=C1 | C35H40N2O
